US05286905
3.3 Milliliter (45 mmol) of thionyl chloride was added dropwise to a solution prepared by dissolving 7.38 g (41 mmol) of 1-methyl-2-(3,5-dimethylphenoxy)ethanol in 20 ml of toluene, and the resultant mixture was refluxed in an oil bath at 100° to 110° C. for 4 hours. The reaction solution was cooled, and then washed consecutively with 50 ml of a saturated sodium hydrogencarbonate aqueous solution and 50 ml of a saturated common salt water. The resultant organic layer was dried over 10 g of anhydrous sodium sulfate, and toluene was removed under reduced pressure to give 7.56 g of oily 1-(3,5-dimethylphenoxy)-2-chloropropane (yield 92.9%).

reactant | thionyl chloride | 45 mmol | S(=O)(Cl)Cl | Cl2OS
reactant | 1-methyl-2-(3,5-dimethylphenoxy)ethanol | 41 mmol, 7.38 g | CC(COC1=CC(=CC(=C1)C)C)O | C11H16O2
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(3,5-dimethylphenoxy)-2-chloropropane | 7.56 g, yield 92.9% | CC=1C=C(OCC(C)Cl)C=C(C1)C | C11H15ClO
